US07531545B2
Following the procedure as described in Example 26, STEP A, glycine benzylester hydrochloride was reacted with cyclohexanone to yield cyclohexylamino-acetic acid benzyl ester hydrochloride as a white solid.

reactant | glycine benzylester hydrochloride | Cl.C(C1=CC=CC=C1)OC(CN)=O
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
product | cyclohexylamino-acetic acid benzyl ester hydrochloride | Cl.C(C1=CC=CC=C1)OC(CNC1CCCCC1)=O | InChI=1S/C15H21NO2.ClH/c17-15(11-16-14-9-5-2-6-10-14)18-12-13-7-3-1-4-8-13;/h1,3-4,7-8,14,16H,2,5-6,9-12H2;1H
